US04410520
A solution of 3-amino-1-carboxymethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one (10.0 g) and ethyl benzylpyruvate (26.4 g) in acetic acid (75 ml) and methanol (75 ml) was stirred at room temperature under nitrogen for 1 hour. Sodium cyanoborohydride (3.4 g) in methanol (25 ml) was added dropwise over 4 hours. The reaction mixture was stirred at room temperature for 24 hours. Concentrated hydrochloric acid (4 ml) was added dropwise, and the mixture stirred at room temperature for 1 hour. The reaction mixture was evaporated to dryness. The residue was partitioned between 150 ml of water and 50 ml of ether and adjusted to pH 9 with 40% sodium hydroxide. The layers were separated and the ether layer was discarded. The aqueous layer was adjusted to pH 4.3 with concentrated hydrochloric acid and extracted with 3×75 ml of ethyl acetate. The organic portions were dried (magnesium sulfate) and concentrated to dryness. Hydrogen chloride gas was bubbled into a solution of the crude product in 310 ml of methylene chloride for 5 minutes. The solution was evaporated and the residue was stirred in 225 ml of ether. The product was collected by filtration to give a 70:30 diastereomeric mixture as determined by high pressure liquid chromatography. The product was recrystallized from ethanol/ethyl acetate (1:3) to give 1-carboxymethyl-3-(1-ethoxycarbonyl-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one hydrochloride melting at 246°-248° (dec.) and corresponding to the racemic isomer B.

reactant | 3-amino-1-carboxymethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 10.0 g | NC1C(N(C2=C(CC1)C=CC=C2)CC(=O)O)=O | C12H14N2O3
reactant | ethyl benzylpyruvate | 26.4 g | C(C1=CC=CC=C1)CC(C(=O)OCC)=O | C12H14O3
reactant | Sodium cyanoborohydride | 3.4 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 4 ml | Cl | ClH
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 75 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
product | 1-carboxymethyl-3-(1-ethoxycarbonyl-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one hydrochloride | Cl.C(=O)(O)CN1C(C(CCC2=C1C=CC=C2)NC(CCC2=CC=CC=C2)C(=O)OCC)=O | InChI=1S/C24H28N2O5.ClH/c1-2-31-24(30)20(14-12-17-8-4-3-5-9-17)25-19-15-13-18-10-6-7-11-21(18)26(23(19)29)16-22(27)28;/h3-11,19-20,25H,2,12-16H2,1H3,(H,27,28);1H
